US08648066B2
To a mixture of 2-[(benzyloxycarbonyl)(methyl)amino]acetic acid (0.42 g, 1.88 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.75 g, 1.97 mmol) in N,N-dimethylformamide (3.0 mL), N,N-diisopropylethylamine (0.72 mL, 4.12 mmol) was added and the reaction mixture was stirred for 30 minutes at room temperature, followed by the addition of 5-bromo-2,3-diaminopyridine (0.35 g, 1.86 mmol), then stirred for 16 hours. It was diluted with ethyl acetate (50 mL), washed with aqueous lithium chloride (2×20 mL) and brine, dried over sodium sulfate, filtered and concentrated. Gradient flash chromatography (35% to 85% ethyl acetate in hexane) provided phenylmethyl{2-[(2-amino-5-bromopyridin-3-yl)amino]-2-oxoethyl}methylcarbamate (0.70 g, 96%). MS (EI) for C16H17BrN4O3: 394 (MH+).

reactant | 2-[(benzyloxycarbonyl)(methyl)amino]acetic acid | 1.88 mmol, 0.42 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C | C11H13NO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.97 mmol, 0.75 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 4.12 mmol, 0.72 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-bromo-2,3-diaminopyridine | 1.86 mmol, 0.35 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | phenylmethyl{2-[(2-amino-5-bromopyridin-3-yl)amino]-2-oxoethyl}methylcarbamate | 0.70 g, 96% | C1(=CC=CC=C1)COC(N(C)CC(=O)NC=1C(=NC=C(C1)Br)N)=O | C16H17BrN4O3
